US08557827B2
A 5 L reaction vessel was charged with 6-tert-butyl-1,1-dimethyl-4-indanyl methyl ketone (300 g, 1.2 mol) (commercially available at IFF), formamidine acetate (639 g, 6.1 mol), and butanol (1.0 L). The reaction mixture was heated to 125° C. for 10 hours and then cooled to 25° C. The reaction mixture was washed twice with brine (1 L) and purified by vacuum distillation to afford 4-[6-(1,1-dimethylethyl)-2,3-dihydro-1,1-dimethyl-1H-inden-4-yl]-pyrimidine (200 g) having a boiling point of 180° C. at a pressure of 0.5 mmHg.

reactant | 6-tert-butyl-1,1-dimethyl-4-indanyl methyl ketone | 1.2 mol, 300 g | CC(=O)C=1C=2CCC(C2C=C(C1)C(C)(C)C)(C)C | C17H24O
reactant | formamidine acetate | 6.1 mol, 639 g | C(C)(=O)O.C(=N)N
solvent | butanol | 1.0 L | C(CCC)O | C4H10O
product | 4-[6-(1,1-dimethylethyl)-2,3-dihydro-1,1-dimethyl-1H-inden-4-yl]-pyrimidine | 200 g | CC(C)(C)C1=CC(=C2CCC(C2=C1)(C)C)C1=NC=NC=C1 | C19H24N2
